US09428528B2
Step 1 Preparation of Methyl 4-((4S,5R)-3-(2,2-dichloroacetyl)-4-(fluoromethyl)-2,2-dimethyloxazolidin-5-yl)benzoate
To a flask containing 2,2-dichloro-1-((4S,5R)-4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyloxazolidin-3-yl)ethanone (2.0 g, 4.48 mmol) is added triethylamine (5 mL) and methanol (5 mL). Carbon monoxide gas is bubbled through the solution while stirring for 30 min. Pd(OAc)2 (51 mg, 0.22 mmol) and Xantphos (132 mg, 0.22 mmol) are next added and a balloon containing carbon monoxide is secured to the flask outlet. The reaction is heated for 2 hours at 60° C. and then cooled to room temperature. Next, the reaction is diluted with water, extracted with ethylacetate, dried over Na2SO4, and concentrated under vacuum. The residue is chromatographed on silica gel eluting from 100% hexanes to 50:50 ethylacetate:hexanes to afford the title compound (1.11 g): 1H NMR (400 MHz, CDCl3) 8.10 (d, 2H, J=8.0 Hz), 7.55 (d, 2H, J=8.0 Hz), 6.34 (m, 1H), 5.30-4.42 (m, 4H), 3.95 (s, 3H), 1.97-1.53 (m, 6H). m/z (CI) 320 [M-(CH3)2CO].

reactant | 2,2-dichloro-1-((4S,5R)-4-(fluoromethyl)-5-(4-iodophenyl)-2,2-dimethyloxazolidin-3-yl)ethanone | 4.48 mmol, 2.0 g | ClC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)I)(C)C)Cl | C14H15Cl2FINO2
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
reactant | Xantphos | 0.22 mmol, 132 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | carbon monoxide | [C]=O | CO
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.22 mmol, 51 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | methanol | 5 mL | CO | CH4O
product | Methyl 4-((4S,5R)-3-(2,2-dichloroacetyl)-4-(fluoromethyl)-2,2-dimethyloxazolidin-5-yl)benzoate | 1.11 g | ClC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C(=O)OC)C=C1)(C)C)Cl | C16H18Cl2FNO4
